US08114867B2
56.i. (RS)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid tert-butyl ester
The aldol reaction between 6-methoxy-[1,5]naphthyridine-4-carbaldehyde (1.9 g, 10 mmol, WO 2006/032466) and tert-butyl acetate (1.2 g, 10.5 mmol) was carried out as described in the literature (J. Org. Chem. (1990), 55, 4744-4750). The title compound was isolated after chromatography on SiO2 (Hex/EA 1:1) as a beige solid (2.33 g, 77% yield).

reactant | 6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 10 mmol, 1.9 g | COC=1N=C2C(=CC=NC2=CC1)C=O | C10H8N2O2
reactant | tert-butyl acetate | 10.5 mmol, 1.2 g | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | EA | CC(OCC)=O | C4H8O2
product | (RS)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=CC=NC2=CC=C(N=C12)OC)O)=O | C16H20N2O4
